.subckt decoder-10ch SEL ENABLE OUT_0 OUT_1 OUT_2 OUT_3 OUT_4 OUT_5 OUT_6 OUT_7 OUT_8 OUT_9
XU0 SEL ENABLE OUT_0 decoder-element Vcenter=0, Vdelta=0.5
XU1 SEL ENABLE OUT_1 decoder-element Vcenter=1, Vdelta=0.5
XU2 SEL ENABLE OUT_2 decoder-element Vcenter=2, Vdelta=0.5
XU3 SEL ENABLE OUT_3 decoder-element Vcenter=3, Vdelta=0.5
XU4 SEL ENABLE OUT_4 decoder-element Vcenter=4, Vdelta=0.5
XU5 SEL ENABLE OUT_5 decoder-element Vcenter=5, Vdelta=0.5
XU6 SEL ENABLE OUT_6 decoder-element Vcenter=6, Vdelta=0.5
XU7 SEL ENABLE OUT_7 decoder-element Vcenter=7, Vdelta=0.5
XU8 SEL ENABLE OUT_8 decoder-element Vcenter=8, Vdelta=0.5
XU9 SEL ENABLE OUT_9 decoder-element Vcenter=9, Vdelta=0.5
.ends decoder-10ch
